data/mechanism_extracts/OrgLett/10.1021_acs.orglett.9b03306.json
{"doi": "10.1021_acs.orglett.9b03306", "journal": "OrgLett", "is_review": false, "rxn_class_summary": "Electrochemical intermolecular [2+1+n] annulation of alkenes with diazo compounds and tert-butyl nitrite to give isoxazolines (with styrenes) or 5,6-dihydro-4H-1,2-oxazines (with allylbenzenes), where diazo compounds serve as radical acceptors", "mechanism_family": ["radical_polar_crossover", "radical_anodic", "radical_cathodic", "paired_electrolysis"], "electrochemical_role": "Cathodic reduction of tBuONO generates an electron-rich nitroso radical (·NO) and tert-butoxide; the resulting C-centered benzylic radical is oxidized at the anode to a benzylic cation (radical-polar crossover); paired electrolysis with H2 evolution avoided by using tBuONO as sacrificial species", "key_intermediates": [{"name": "nitroso radical (·NO) from homolysis/heterolysis of tBuONO", "smiles": "[N]=O", "role": "reactive"}, {"name": "tert-butoxy radical", "smiles": "CC(C)(C)[O]", "role": "transient"}, {"name": "tert-butoxide anion (from cathodic reduction)", "smiles": "CC(C)(C)[O-]", "role": "transient"}, {"name": "α-oxime-ester C-radical I (·NO addition to diazo with N2 loss)", "smiles": "O=NC([CH])C(=O)OCC", "role": "reactive"}, {"name": "benzylic radical II from addition of I to styrene", "smiles": null, "role": "reactive"}, {"name": "benzylic cation III after anodic oxidation of II", "smiles": null, "role": "reactive"}, {"name": "oxime tautomer IV (cation)", "smiles": null, "role": "reactive"}, {"name": "alkyl radical V (from addition of I to allylbenzene)", "smiles": null, "role": "transient"}, {"name": "more-stable benzyl radical VI after 1,2-aryl migration", "smiles": null, "role": "reactive"}, {"name": "nitrile oxide 6 (alternative anodic oxidation product of I, not observed)", "smiles": null, "role": "off_pathway"}], "electron_flow": "Cathode reduces tBuONO to give ·NO and tBuO-/tBuO·; ·NO adds to the diazo compound with loss of N2 to give an α-acyl C-radical (I), which adds to the alkene to give a benzylic/alkyl radical (II or V); for allylbenzenes, 1,2-aryl migration gives the more stable benzyl radical VI; anodic oxidation of the C-radical to a cation, tautomerization to the oxime, and intramolecular O-attack/dehydration closes the isoxazoline or 1,2-oxazine ring.", "rate_determining_step": null, "probe_reagents": [{"name": "H-type divided cell experiment", "smiles": null, "purpose": "other", "observation": "Product 3a still formed in 45% GC yield in divided cell (vs 75% undivided), indicating tBuONO undergoes homolytic cleavage independently and confirming both anodic and cathodic events contribute"}, {"name": "Cyclic voltammetry of tBuONO with/without HFIP", "smiles": null, "purpose": "redox_probe", "observation": "HFIP lowers reduction potential of tBuONO to -0.78 V vs Ag/AgCl, rationalizing why HFIP facilitates nitroso radical generation"}, {"name": "allylbenzene substrates (radical clock / migration probe)", "smiles": "C=CCc1ccccc1", "purpose": "radical_clock", "observation": "1,2-aryl migration observed to give 5,6-dihydro-4H-1,2-oxazines (R2=H, alkyl), proving radical pathway rather than 1,3-dipolar cycloaddition (which would give isoxazoline 7, not observed)"}, {"name": "absence of nitrile oxide [3+2] product 7", "smiles": null, "purpose": "intermediate_trap", "observation": "Only [2+1+3] product 5 formed, not the cycloaddition product 7 expected from nitrile oxide 6, ruling out anodic oxidation of I to nitrile oxide / 1,3-dipolar cycloaddition pathway"}], "evidence_types_used": ["cyclic_voltammetry", "radical_clock", "isolation_of_intermediate", "other"], "evidence_strength": "medium", "notes": "Authors explicitly rule out the alternative 1,3-dipolar cycloaddition pathway (anodic oxidation of radical I to nitrile oxide 6 followed by [3+2] with alkene) on the basis that allylbenzenes give 1,2-oxazines via aryl migration rather than the cycloaddition product 7. HFIP additive critical for lowering tBuONO reduction potential. Paired electrolysis: anode oxidizes benzylic radical, cathode reduces tBuONO — no sacrificial H2 evolution needed."}
